US04661635
1-Methoxy-3-(2-nitro-1-propenyl)benzene
A mixture of 71.9 g (0.528 mole) of m-anisaldehyde, 118.9 g (1.584 mole) of nitroethane, 40.7 g (0.528 mole) of ammonium acetate, and 350 ml of glacial acetic acid was heated to reflux for one hour. The mixture was then allowed to cool and partitioned between ether and water. The ether layer was separated and washed sequentially with water, 3N sodium hydroxide, water and brine. The organic phase was dried over anhydrous magnesium sulfate and evaporated in vacuo to give the crude product. After a preliminary distillation at 125° C./0.0001 mm, the product was finally crystallized from absolute ethanol to yield the pure product, a yellow solid, mp 40°-42° C.

reactant | m-anisaldehyde | 0.528 mole, 71.9 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | nitroethane | 1.584 mole, 118.9 g | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 0.528 mole, 40.7 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 1-Methoxy-3-(2-nitro-1-propenyl)benzene | COC1=CC(=CC=C1)C=C(C)[N+](=O)[O-] | C10H11NO3
